US06384041B1
To a suspension of 48 mg (2.00 mmol) of sodium hydride in 4.0 mL of tetrahydrofuran was added 227 mg (1.00 mmol) of 2-(methylthio)-4-chloro-6-ethyl-1H-pyrrolo[2,3-d]pyrimidine and 410 mg (2.00 mmol) of 3-chlorobenzyl bromide. The reaction was stirred at ambient temperature for 18 hours then diluted with 30 mL of methylene chloride and washed with 20 mL of saturated sodium bicarbonate solution. The organic phase was dried with sodium sulfate and concentrated. The crude product was purified by flash chromatography (25 g silica, methylene chloride-heptane gradient 1:1 to 100:0) to provide 350 mg (99%) of 2-(methylthio)-4-chloro-6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidine as a white solid. nmr (500 MHz, CDCl3) δ1.33 (t, J=7.4 Hz, 3H), 2.58 (s, 3H), 2.59 (q, J=7.4 Hz, 2H), 5.30 (s, 2H), 6.29 (s, 1H), 6.92 (d, J=7.4 Hz, 1H), 7.09 (s, 1H), 7.23 (m, 2H)

reactant | sodium hydride | 2.00 mmol, 48 mg | [H-].[Na+]
reactant | 2-(methylthio)-4-chloro-6-ethyl-1H-pyrrolo[2,3-d]pyrimidine | 1.00 mmol, 227 mg | CSC1=NC(=C2C(N1)=NC(=C2)CC)Cl | C9H10ClN3S
reactant | 3-chlorobenzyl bromide | 2.00 mmol, 410 mg | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-(methylthio)-4-chloro-6-ethyl-7-[(3-chlorophenyl)methyl]-7H-pyrrolo[2,3-d]pyrimidine | 350 mg, 99% | CSC=1N=C(C2=C(N1)N(C(=C2)CC)CC2=CC(=CC=C2)Cl)Cl | C16H15Cl2N3S
